US06900215B2
By the method of Example 1, 3-(2-fluoro-5-nitrophenyl)pyridine-2-carbonitrile was reduced with tin(II) chloride to afford 3-(5-amino-2-fluorophenyl)pyridine-2-carbonitrile, which in turn was converted to 3-(5-bromo-2-fluorophenyl)pyridine-2-carbonitrile. Crystallisation from toluene/isohexane furnished off-white needles: δH (400 MHz, CDCl3) 8.77 (1H, dd, J 5 and 2 ), 7.83 (1H, t, J 1.5), 7.59 (3H, m), 7.16 (1H, t, J 9); m/z (ES+) 277, 279.

reactant | 3-(2-fluoro-5-nitrophenyl)pyridine-2-carbonitrile | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1C(=NC=CC1)C#N | C12H6FN3O2
reactant | tin(II) chloride | [Sn](Cl)Cl
product | 3-(5-amino-2-fluorophenyl)pyridine-2-carbonitrile | NC=1C=CC(=C(C1)C=1C(=NC=CC1)C#N)F | C12H8FN3
